US07300931B2
Synthesis of N-(3-Fluoro-benzyl)-2-(2-fluoro-biphenyl-4-yl)-acetamide:
(2-Fluoro-biphenyl-4-yl)-acetic acid (0.12 gm, 0.5 mmole), 3-fluorobenzylamine (0.0.8 ml, 0.6 mmole), PyBOP (0.34 gm, 0.6 mmole), and DIEA (0.22 ml, 1.3 mmole) was dissolved in DMF stirred overnight, the reaction mixture was then poured into water, solid was collected by filtration, re-crystallized crystallized using water-methanol. (0.140 gm, 83%); H1-NMR INOVA-500 (DMSO d6) δ 3.580 (s, 2H), 4.316 (d, J=5.5 Hz, 2H), 7.037-7.110 (m, 3H), 7.210-7.247 (m, 2H), 7.343-7.372 (m, 2H), 7.457-7.501 (m, 3H), 7.544 (d, J=8.0 Hz, 2H), 8.660 (t, J=6.0 Hz, 1H). MS (m/z) 338.1 (M+H)+.

reactant | (2-Fluoro-biphenyl-4-yl)-acetic acid | 0.5 mmole, 0.12 gm | FC1=C(C=CC(=C1)CC(=O)O)C1=CC=CC=C1 | C14H11FO2
reactant | 3-fluorobenzylamine | 0.6 mmole | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | PyBOP | 0.6 mmole, 0.34 gm | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.3 mmole, 0.22 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(3-Fluoro-benzyl)-2-(2-fluoro-biphenyl-4-yl)-acetamide | FC=1C=C(CNC(CC2=CC(=C(C=C2)C2=CC=CC=C2)F)=O)C=CC1 | C21H17F2NO
